US09023858B2
A) 8-chloro-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidine-2,4(1H,3H)-dione
A mixture of 2-ethoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione (763 mg) and phosphorus oxychloride (10 ml) was stirred at 100° C. for 5 hr, allowed to be cooled to room temperature, and concentrated under reduced pressure. To the residue was added toluene, and the mixture was again concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (437 mg).

reactant | 2-ethoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione | 763 mg | C(C)OC=1N(C(C2=C(N1)C(NC=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C17H14F3N3O4
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-chloro-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[3,4-d]pyrimidine-2,4(1H,3H)-dione | 437 mg | ClC1=NC=CC2=C1NC(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)=O | C15H9ClF3N3O3
